US07067540B2
Preparation of 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoic acid.
Methyl-4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoate (30.4 g, 70.1 mmol) was suspended in methanol (150 mL) and dioxane (150 mL). 2.5N NaOH (30.8 mL, 77.08 mmol) was added. The resulting mixture was heated to 50° C. for 8.0 hours. The reaction was partially concentrated and the heterogenous mixture was acidified (pH 2) with 1N HCl. The precipitate was collected by filtration washing with H2O and diethyl ether to afford a white solid (29.2 g, 99%). 1H NMR (400 MHz, DMSO-d6) δ 7.88 (d, J=8.3 Hz, 2H), 7.63 (app q, J=7.9 Hz, 1H), 7.31 (dt, J=2.4, 9.9 Hz, 1H), 7.18 (app d, J=8.3 Hz, 2H), 7.17-7.12 (m, 1H), 6.60 (s, 1H), 5.35 (s, 2H), 5.27 (s, 2H), 2.28 (s, 3H). ES-HRMS m/z 420.0821 (M+H calcd for C21H17ClF2NO4 requires 420.0809).

reactant | Methyl-4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoate | 70.1 mmol, 30.4 g | COC(C1=CC=C(C=C1)CN1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Cl)=O)=O | C22H18ClF2NO4
reactant | NaOH | 77.08 mmol, 2.5N, 30.8 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 4-{[3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}benzoic acid | 29.2 g, 99% | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=CC=C(C(=O)O)C=C1)=O | C21H16ClF2NO4
